US07166623B2
N-(Cyclopropylmethyl)-5′-(5-ethyl-1,3,4-oxadiazol-2-yl)-2′-methyl-1,1′-biphenyl-4-carboxamide
(Cyclopropylmethyl)amine (470 mg, 6.0 mmol), 4-carboxyphenylboronic acid (1.0 g, 6.0 mmol), HOBT (810 mg, 6.0 mmol), HBTU (2.73 g, 7.2 mmol) and DIPEA (1.71 g, 7.2 mmol) were mixed in DMF (10 ml) and stirred at room temperature for 18 h. The DMF was evaporated under vacuum and the residue partitioned between DCM and aqueous sodium bicarbonate. The organic phase was separated, washed with water and brine and dried (magnesium sulphate). The solvent was evaporated under vacuum and the residue purified on a silica flash column eluting with DCM/ethanol/ammonia (15:8:1 then 10:10:1), to give after evaporation of the solvents 4-[N-(cyclopropylmethyl)aminocarbonyl]phenylboronic acid (300 mg, 23%).

reactant | (Cyclopropylmethyl)amine | 6.0 mmol, 470 mg | C1(CC1)CN | C4H9N
reactant | 4-carboxyphenylboronic acid | 6.0 mmol, 1.0 g | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | HOBT | 6.0 mmol, 810 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HBTU | 7.2 mmol, 2.73 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 7.2 mmol, 1.71 g | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-(Cyclopropylmethyl)-5′-(5-ethyl-1,3,4-oxadiazol-2-yl)-2′-methyl-1,1′-biphenyl-4-carboxamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C=1OC(=NN1)CC)C | C22H23N3O2
